6
R0102 1 2 20000
R0304 3 4 20000
C0100 1 0 1E-6
C0300 3 0 1.1E-6
N0500 5 0 0 0 0.001 50 0.01 10 0.02 20
N0600 6 0 0 0 0.001 50 0.01 10 0.02 20
G0100 1 0 5 0 1
G0500 5 0 0 1 1
G0300 3 0 6 0 1
G0600 6 0 0 3 1
V0200 2 0 PULSE 0 100 0 0.01 0.01 1000 2000 1
V0400 4 0 PULSE 0 100 0 0.01 0.01 1000 2000 1
.TRAN 0.1 0.1E-3 TRAP 1
